US05292971
Preparation of 2,3-dihydroxy-5,5-bis(trifluoromethyl)bicyclo[2.2.1]heptane
5.2 g (20 mmol) of the Diels-Alder reaction product of 3,3,3-trifluoro-2-trifluoromethyl-1-propene (hexafluoroisobutene) and cyclopentadiene are mixed with 20 ml of formic acid, and 1.3 ml of 70 percent strength hydrogen peroxide (30 mmol) is added at 50° C., and the mixture is held at 50° C. for 20 hours. Testing for oxidant using KI-starch paper showed that the oxidant had been broken down completely. The low-boiling components are distilled off under reduced pressure. The residue is heated to 50° C. with 200 ml of 20% strength aqueous sodium hydroxide. The precipitated solid is extracted with a total of 130 ml of methylene chloride. The combined extracts are dried with magnesium sulfate, the methylene chloride is distilled off, and the residue is sublimated at 60° C. in an oil pump vacuum.

reactant | 3,3,3-trifluoro-2-trifluoromethyl-1-propene | FC(C(=C)C(F)(F)F)(F)F | C4H2F6
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | hydrogen peroxide | 30 mmol | OO | H2O2
reactant | formic acid | 20 ml | C(=O)O | CH2O2
product | 2,3-dihydroxy-5,5-bis(trifluoromethyl)bicyclo[2.2.1]heptane | OC1C2CC(C(C1O)C2)(C(F)(F)F)C(F)(F)F | C9H10F6O2
